data/mechanisms/records/IMS4-EQ4.10.json
{"mechanism_id": "IMS4-EQ4.10", "species": [{"species_id": "distonic_dimethyloxonio_ethyl_radical", "mapped_smiles": "[CH3:1][O+:3]([CH3:2])[CH2:4][CH2:5]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "dimethyl_ether_radical_cation", "mapped_smiles": "[CH3:1][O+:3][CH3:2]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ethene", "mapped_smiles": "[CH2:4]=[CH2:5]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["distonic_dimethyloxonio_ethyl_radical"]}, {"state_id": "state_products", "species_ids": ["dimethyl_ether_radical_cation", "ethene"]}], "steps": [{"step_id": "step_alpha_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 1}, {"source": {"type": "atom", "atom_maps": [5]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage", "support_type": "textbook_proposed", "locator": {"page": 57, "equation": "4.10", "section": "4.6 Radical-site initiation (alpha-cleavage)"}, "confidence": 0.9, "curator_note": "Generic scheme (+)YR-CH2-CH2(.) -> YR(+.) + CH2=CH2: the radical site is on the terminal carbon and the charge stays on the saturated heteroatom (converse of eq 4.9). Book draws 3 arc(s); moves <1,2,3> are ALL drawn on the page -- one electron of the Y-CH2 sigma bond onto Y, the other into the forming C=C bond, and the odd electron of the terminal CH2 into that same bond -- so no implicit hook is required here. Instantiated by the curator as Y = O carrying a second methyl: the book leaves Y's remaining valences open, and a charge-only (even-electron) oxygen needs three bonds, so CH3-O(+)(CH3)-CH2-CH2. is the smallest faithful realisation. This precursor is a distonic ion formed in an earlier step, not the molecular ion itself; ms_context records the EI context and the curator-computed precursor m/z."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "electron_energy_ev": 70.0, "precursor_mz": 74.0726, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_oxonium", "species_id": "dimethyl_ether_radical_cation", "step_id": "step_alpha_cleavage", "observed_mz": 46.0413, "status": "inferred", "confidence": 0.5}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-23T00:00:00Z", "modified_at": "2026-07-23T00:00:00Z"}}
